US06114555
e) Preparation of (cyclopentadienyl)((3-hydroxy-propyl)-cyclopentadienyl) zirconium dichloride
0.5 g (1.18 mmol) of (cyclopentadienyl)(trimethylsiloxypropyl-cyclopentadienyl) zirconium dichloride was added to a suspension of 1.1 g of Silica XPO 2407 in 75 ml of dry toluene at room temperature; the suspension immediately acquired a greenish-yellow color. The sample was maintained under continuous magnetic stirring at room temperature for two days. Then it was filtered, separating the solution from the insoluble product. The resulting colorless solution was brought to dryness. In this way it was possible to isolate a dusty white solid product. (0.16 g Yield: 39%) 1H-NMR: (Cl3CD): 1.45 (m,1 H), 1.87 (t,2H), 2.72 (t,2H),3.80 (t,2H), 6.10 (m,2H), 6.28 (m,2H), 6.28 (m,2H), 6.45 (s,5H). Mass spectrum: M+ -36.45 (312):55%.

reactant | (cyclopentadienyl)(trimethylsiloxypropyl-cyclopentadienyl) zirconium dichloride | 1.18 mmol, 0.5 g | [Cl-].[Cl-].C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCCO[Si](C)(C)C
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | (cyclopentadienyl)((3-hydroxy-propyl)-cyclopentadienyl) zirconium dichloride | Yield: 39% | [Cl-].[Cl-].C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCCO | InChI=1S/C8H11O.C5H5.2ClH.Zr/c9-7-3-6-8-4-1-2-5-8;1-2-4-5-3-1;;;/h1-2,4-5,9H,3,6-7H2;1-5H;2*1H;/q;;;;+2/p-2
